US04028356
In the manner given in Example 1, 7-bromo-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine in tetrahydrofuran can be treated with 1-chloro-3-hydroxypropanone under nitrogen to give 7-bromo-2-[[2-chloro-1-(hydroxymethyl)ethylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-bromo-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | BrC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13BrN4
reactant | 1-chloro-3-hydroxypropanone | ClCC(CO)=O | C3H5ClO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-bromo-2-[[2-chloro-1-(hydroxymethyl)ethylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine | BrC=1C=CC2=C(C(=NCC(=N2)NN=C(CCl)CO)C2=CC=CC=C2)C1 | C18H16BrClN4O
